US04758381
b. A process for preparing 1,4-bis-(dicyanomethylene)-2-dodecyl cyclohexane
A mixture of 2 g (0.0071M) of thus obtained 2-dodecyl-1,4-cyclohexane-dione and 1.4 g (0.0212M) of malononitrile was heated in a water bath to make a solution. β-alanine as a catalyst and 2 ml of water were added to the solution and stirred at a temperature between 40° C. and 50° C. for 8 hours to react the mixture. After cooling, the reacted mixture was dissolved in chloroform, and rinsed with water and dried. The dried material was concentrated under reduced pressure, and purified through silica gel column chromatography. As a result, 1.26 g of white crystal of 1,4-bis-(dicyanomethylene)-2-dodecyl cyclohexane was obtained. The obtained compound had a melting point of 97° C. and an infrared absorption band of 2250 cm-1 which corresponds to a cyano group.

reactant | 2-dodecyl-1,4-cyclohexane-dione | C(CCCCCCCCCCC)C1C(CCC(C1)=O)=O | C18H32O2
reactant | malononitrile | 0.0212M, 1.4 g | C(CC#N)#N | C3H2N2
reactant | water | 2 ml | O | H2O
catalyst | β-alanine | NCCC(=O)O | C3H7NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,4-bis-(dicyanomethylene)-2-dodecyl cyclohexane | 1.26 g | C(#N)C(=C1C(CC(CC1)=C(C#N)C#N)CCCCCCCCCCCC)C#N | C24H32N4
